US07465731B2
A mixture of (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(cyclopentylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid, O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (77 mg, 0.66 mmol), HOBt (89 mg, 0.66 mmol) and EDCI (126 mg, 0.66 mmol) in DMF (4.5 mL) was stirred at 0° C. for 1 hr and the mixture was stirred at ambient temperature for 18 hrs. The reaction mixture was evaporated in vacuo and the residue was partitioned between saturated sodium bicarbonate solution and EtOAc. The organic layer was separated, evaporated in vacuo. The residue was purified by preparative thin layer chromatography (chloroform-MeOH=10-1) to give tert-butyl [(3R)-1-(cyclopentylmethyl)-3-pyrrolidinyl](5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridinyl)carbamate (181 mg, 69%) as an amorphous powder.

reactant | (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(cyclopentylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)O)[C@H]1CN(CC1)CC1CCCC1 | C23H33N3O4
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 0.66 mmol, 77 mg | O1C(CCCC1)ON | C5H11NO2
reactant | HOBt | 0.66 mmol, 89 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.66 mmol, 126 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
product | tert-butyl [(3R)-1-(cyclopentylmethyl)-3-pyrrolidinyl](5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridinyl)carbamate | 181 mg, 69% | C1(CCCC1)CN1C[C@@H](CC1)N(C(OC(C)(C)C)=O)C1=NC=C(C=C1)\C=C\C(NOC1OCCCC1)=O | C28H42N4O5
